US05326780
2,5-Bis-phenylthio-1-benzyloxymethyl-4-methylimidazole (I-23).
In 6 ml of dry tetrahydrofuran is dissolved 200 mg of 1-benzyloxymethyl-4-methyl-5-phenylthioimidazole (I-3) (0.64 mmol), and the solution is chilled at -78° C. To the solution is added dropwise 1.64M solution of n-butyl lithium in 0.6 ml of hexane (0.98 mmol ) and the mixture allowed to stand for 10 minutes, when 211 mg of diphenyl disulfide (9.7 mmol) is added thereto. Thirty minutes later, the mixture is poured onto ice water. The mixture is extracted with ethyl ether. The extract is washed with water, dried over sodium sulfate, filtered and the liltrate is concentrated. The crude product is chromatographed on a column of silica gel, eluting with ethyl acetate/n-hexane (1: 2) to give 250 mg of the product (I-23) as an oil. Yield, 93%.

reactant | 1-benzyloxymethyl-4-methyl-5-phenylthioimidazole | 0.64 mmol, 200 mg | C(C1=CC=CC=C1)OCN1C=NC(=C1SC1=CC=CC=C1)C | C18H18N2OS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.98 mmol, 0.6 ml | CCCCCC | C6H14
reactant | diphenyl disulfide | 9.7 mmol, 211 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2,5-Bis-phenylthio-1-benzyloxymethyl-4-methylimidazole | 250 mg | C1(=CC=CC=C1)SC=1N(C(=C(N1)C)SC1=CC=CC=C1)COCC1=CC=CC=C1 | C24H22N2OS2
